US06824709B2
2-Pentyloxy-7-(2-(3-fluoro-4-hydroxyphenyl)ethyl)fluorene (0.7 g) and acrylic acid (0.14 g) were dissolved in chloroform (30 mL) and cooled down to 0° C. 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.44 g) and 4-dimethylaminopyridine (0.01 g) were added thereto, and then the temperature was allowed to come back to a room temperature, followed by stirring for 24 hours. Water was added to separate the solution, and the chloroform layer was dried on anhydrous magnesium sulfate. A residue obtained by distilling chloroform off was purified by means of column chromatography (silica gel, eluting solvent: toluene), and it was further recrystallized to obtain 2-pentyloxy-7-(2-(3-fluoro-4-acryloyloxyphenyl)ethyl)fluorene (0.14 g) of the intended product.

reactant | 2-Pentyloxy-7-(2-(3-fluoro-4-hydroxyphenyl)ethyl)fluorene | 0.7 g | C(CCCC)OC1=CC=2CC3=CC(=CC=C3C2C=C1)CCC1=CC(=C(C=C1)O)F | C26H27FO2
reactant | acrylic acid | 0.14 g | C(C=C)(=O)O | C3H4O2
reactant | 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.44 g | Cl.C(C)N=C=NCCCN(C)C
reactant | Water | O | H2O
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | 4-dimethylaminopyridine | 0.01 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-pentyloxy-7-(2-(3-fluoro-4-acryloyloxyphenyl)ethyl)fluorene | 0.14 g | C(CCCC)OC1=CC=2CC3=CC(=CC=C3C2C=C1)CCC1=CC(=C(C=C1)OC(C=C)=O)F | C29H29FO3
